US06133319
b) Preparation of benzenesulfonylamino-4-cyanoaniline
A solution of 3,4 diamino benzonitrile (10.7 g, 0.08 mol) in methylene chloride was treated with phenyl sulfonyl chloride (2 eq, 0.16 mol) and triethyl amine (2 eq, 0.16 mol) for 18 hours at 23° C. The reaction mixture was partitioned between water and methylene chloride. The organic layer was separated and dried over sodium sulfate. The solution was filtered and concentrated to 50 mL and a solid was precipitated out with hexanes. This solid was dissolved in tetrahydrofuran and treated with 25% NaOMe in methanol. The reaction was complete after 5 minutes. The reaction mixture was acidified to pH 7 with ammonium chloride solution, then it was extracted with methylene chloride. The organic layer was dried over magnesium sulfate, filtered and concentrated to 50 mL. Hexanes were added to precipitate desired as a white solid (19.7 grams).

reactant | 3,4 diamino benzonitrile | 0.08 mol, 10.7 g | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | phenyl sulfonyl chloride | 0.16 mol, 2 eq | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethyl amine | 0.16 mol, 2 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | benzenesulfonylamino-4-cyanoaniline | C1(=CC=CC=C1)S(=O)(=O)NNC1=CC=C(C=C1)C#N | C13H11N3O2S
